### PR TITLE
Add Erdős Problem 525 (minimum modulus of random ±1 polynomials), link the formal proof

### LINKED ISSUE #6329: Erdős Problem 525
### What is the Erdős problem?

https://www.erdosproblems.com/525

Is it true that all except at most $o(2^n)$ many degree $n$ polynomials with $\pm 1$-valued coefficients $f(z)$ have $\lvert f(z)\rvert <1$ for some $\lvert z\rvert=1$? What is the behaviour of $m(f)=\min_{\lvert z\rvert=1}\lvert f(z)\rvert$?

Status: proved (Kashin [Ka87]; limiting distribution by Cook–Nguyen [CoNg21]). A formal proof exists in plby/lean-proofs (`Erdos525.erdos_525`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-30
* ams-60

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6329.

### What changed
Adds `FormalConjectures/ErdosProblems/525.lean`. Degree-`n` polynomials with `±1` coefficients are coefficient vectors `ε : Fin (n+1) → ℤˣ`, with `eval ε z`, `m ε = min_{|z|=1} |f(z)|`, the set `exceptional n` of those with `|f| ≥ 1` on the circle, and `prob n P` (uniform probability):
- `erdos_525.parts.i` (`answer(True)`): `#exceptional n = o(2^n)`.
- `erdos_525.parts.ii`: Cook–Nguyen's limit law `P(m(f) > ε n^{-1/2}) → exp(-√(π/12) ε)`.

Both linked to plby/lean-proofs `Erdos525.erdos_525` (Codex and GPT-5.6 Sol; 36 Mathlib-only files, ~50k lines).
- Sorry'd literature variants: Kashin (`m(f) = o(1)` a.s.), Konyagin (`m(f) ≤ n^{-1/2+o(1)}` a.s.), Konyagin–Schlag (`limsup P(m(f) ≤ ε n^{-1/2}) ≪ ε`).

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos525.erdos_525` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statements on top of a renamed copy, same axioms (plby uses `Fin (N+1) → Bool` sign vectors; the bridge transports along `ℤˣ ≃ Bool`):

<details>
<summary>Bridge</summary>

```lean
open Filter Real Finset

namespace Bridge525

/-- `ℤˣ ≃ Bool`, sending `1 ↦ true` and `-1 ↦ false`. -/
def unitsEquivBool : ℤˣ ≃ Bool where
  toFun u := decide (u = 1)
  invFun b := if b then 1 else -1
  left_inv u := by
    rcases Int.units_eq_one_or u with rfl | rfl <;> simp
  right_inv b := by cases b <;> simp

lemma sign_unitsEquivBool (u : ℤˣ) : Erdos525Plby.sign (unitsEquivBool u) = ((u : ℤ) : ℝ) := by
  rcases Int.units_eq_one_or u with rfl | rfl <;> simp [unitsEquivBool, Erdos525Plby.sign]

/-- The corresponding equivalence of coefficient vectors. -/
def coeffEquiv (n : ℕ) : (Fin (n + 1) → ℤˣ) ≃ Erdos525Plby.SignVector n :=
  Equiv.piCongrRight fun _ => unitsEquivBool

lemma eval_eq {n : ℕ} (ε : Fin (n + 1) → ℤˣ) (z : ℂ) :
    Erdos525.eval ε z = Erdos525Plby.littlewoodEval (coeffEquiv n ε) z := by
  unfold Erdos525.eval Erdos525Plby.littlewoodEval
  refine Finset.sum_congr rfl fun j _ => ?_
  simp only [coeffEquiv, Equiv.piCongrRight_apply, Pi.map_apply, sign_unitsEquivBool]
  push_cast
  rfl

lemma m_eq {n : ℕ} (ε : Fin (n + 1) → ℤˣ) :
    Erdos525.m ε = Erdos525Plby.minModulus (coeffEquiv n ε) := by
  unfold Erdos525.m Erdos525Plby.minModulus Erdos525Plby.modulusRange Erdos525Plby.unitCircle
  simp only [eval_eq]

lemma mem_exceptional_iff {n : ℕ} (ε : Fin (n + 1) → ℤˣ) :
    ε ∈ Erdos525.exceptional n ↔ 1 ≤ Erdos525Plby.minModulus (coeffEquiv n ε) := by
  rw [Erdos525.exceptional, Set.mem_ofPred_eq, ← not_lt, Erdos525Plby.minModulus_lt_iff]
  push Not
  simp only [eval_eq]

lemma ncard_exceptional (n : ℕ) :
    (Erdos525.exceptional n).ncard = (Erdos525Plby.exceptionalFamily n).card := by
  classical
  rw [Set.ncard_eq_toFinset_card', Erdos525Plby.exceptionalFamily]
  refine Finset.card_bij (fun ε _ => coeffEquiv n ε) ?_ ?_ ?_
  · intro ε hε
    rw [Finset.mem_filter]
    exact ⟨Finset.mem_univ _, (mem_exceptional_iff ε).1 (by simpa using hε)⟩
  · intro a _ b _ h
    exact (coeffEquiv n).injective h
  · intro b hb
    refine ⟨(coeffEquiv n).symm b, ?_, by simp⟩
    rw [Set.mem_toFinset, mem_exceptional_iff, Equiv.apply_symm_apply]
    exact (Finset.mem_filter.1 hb).2

lemma prob_eq (n : ℕ) (P : (Fin (n + 1) → ℤˣ) → Prop) :
    Erdos525.prob n P = Erdos525Plby.uniformProbability fun ε : Erdos525Plby.SignVector n =>
      P ((coeffEquiv n).symm ε) := by
  classical
  unfold Erdos525.prob Erdos525Plby.uniformProbability
  congr 1
  · norm_cast
    refine Finset.card_bij (fun ε _ => coeffEquiv n ε) ?_ ?_ ?_
    · intro ε hε
      rw [Finset.mem_filter] at hε ⊢
      simpa using hε.2
    · intro a _ b _ h
      exact (coeffEquiv n).injective h
    · intro b hb
      refine ⟨(coeffEquiv n).symm b, ?_, by simp⟩
      rw [Finset.mem_filter] at hb ⊢
      simpa using hb.2
  · simp [Erdos525Plby.SignVector]

theorem parts_i : type_of% Erdos525.erdos_525.parts.i := by
  show True ↔ _
  simp only [true_iff, ncard_exceptional]
  exact Erdos525Plby.erdos_525.2.1

theorem parts_ii : type_of% Erdos525.erdos_525.parts.ii := by
  intro ε hε
  have h := Erdos525Plby.erdos_525.1 ε hε
  rw [Erdos525Plby.rate] at h
  convert h using 2 with n
  rw [Erdos525Plby.minimumTail, prob_eq]
  congr 1
  funext δ
  rw [m_eq, Equiv.apply_symm_apply]

#print axioms Erdos525Plby.erdos_525
#print axioms parts_i
#print axioms parts_ii

end Bridge525
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«525»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/525.lean [hunk 1]
```diff
@@ -0,0 +1,116 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/525.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
